US08207168B2
A mixture of crude 4-[4-(3-ethoxycarbonyl-2-methyl-propionyl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester (9 g, 21.4 mmol) and hydrazine monohydrate (3.58 ml, 71.6 mmol) in isopropanol (70 mL) was heated at 90° C. for 2 days and concentrated at reduced pressure to give a crude residue. The crude reside was dissolved in methylene chloride and washed with saturated aqueous sodium bicarbonate solution, brine, dried (Na2SO4), filtered, and concentrated to give a crude product. The crude product was purified by ISCO (120 g silica gel column) chromatography using 2 to 5% methanol in methylene chloride to obtain 4-[4-(4-methyl-6-oxo-1,4,5,6-tetrahydro-pyridazin-3-yl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester (4.4 g, 53%), MS m/z 388 (M+H)

reactant | 4-[4-(3-ethoxycarbonyl-2-methyl-propionyl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester | 21.4 mmol, 9 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C(C(CC(=O)OCC)C)=O | C23H33NO6
reactant | hydrazine monohydrate | 71.6 mmol, 3.58 ml | O.NN
solvent | isopropanol | 70 mL | C(C)(C)O | C3H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-[4-(4-methyl-6-oxo-1,4,5,6-tetrahydro-pyridazin-3-yl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester | 4.4 g, 53% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C1=NNC(CC1C)=O | C21H29N3O4
